US05246948
Synthesis of 3-[4-(2-pyridylthio)butyl]-quinazoline-2,4(1H,3H)-dione
Under nitrogen atmosphere, to a solution of 452 mg (1.5 mmol) of 2-[4-(2-aminobenzoylamino)butylthio]pyridine in 20 ml of tetrahydrofuran, 486 mg (3.0 mmol) of 1,1'-carbonyldiimidazole was added, and the mixture was stirred at room temperature for 16 hours. The solvent was distilled off and the residue was dissolved in chloroform. The solution was washed with water and dried. The solvent was distilled off and the residue was recrystallized from chloroform/ether to give 337 mg of the desired product (68.8% yield, white crystals).

reactant | 2-[4-(2-aminobenzoylamino)butylthio]pyridine | 1.5 mmol, 452 mg | NC1=C(C(=O)NCCCCSC2=NC=CC=C2)C=CC=C1 | C16H19N3OS
reactant | 1,1'-carbonyldiimidazole | 3.0 mmol, 486 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-[4-(2-pyridylthio)butyl]-quinazoline-2,4(1H,3H)-dione | 337 mg, 68.8% yield | N1=C(C=CC=C1)SCCCCN1C(NC2=CC=CC=C2C1=O)=O | C17H17N3O2S
